US08084620B2
Step 1 A solution of sodium nitrite (2.448 g, 35.5 mmol) in water (12 mL) was added dropwise to a suspension of 2-amino-4-bromobenzoic acid (7.30 g, 33.8 mmol) in concentrated hydrochloric acid (34 mL) at −5° C., at such rate that the temperature did not exceed 0° C. The resulting suspension was stirred at −5° C. for 10 min and was then added dropwise to a rapidly stirred solution of tin (II) chloride (13.46 g, 71.0 mmol) in concentrated hydrochloric acid (10 mL) at −5° C., at such a rate that the temperature did not exceed 0° C. The resulting suspension was warmed to rt and stirred for 1 h. The precipitate was collected by filtration, washed with water, and dried to provide 4-bromo-2-hydrazinylbenzoic acid hydrochloric acid salt as a pale tan solid (7.79 g, 86%). 1H NMR (400 MHz, DMSO-d6) δ 9.14 (br. s., 1H) 7.79 (d, J=8.35 Hz, 1H) 7.34 (d, J=1.76 Hz, 1H) 7.13 (dd, J=8.35, 1.76 Hz, 1H). Mass spectrum m/z 231, 233 (M+H)+.

reactant | sodium nitrite | 35.5 mmol, 2.448 g | N(=O)[O-].[Na+]
reactant | 2-amino-4-bromobenzoic acid | 33.8 mmol, 7.30 g | NC1=C(C(=O)O)C=CC(=C1)Br | C7H6BrNO2
reactant | tin (II) chloride | 71.0 mmol, 13.46 g | [Sn](Cl)Cl
solvent | water | 12 mL | O | H2O
solvent | hydrochloric acid | 34 mL | Cl | ClH
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 4-bromo-2-hydrazinylbenzoic acid hydrochloric acid salt | 7.79 g, 86% | Cl.BrC1=CC(=C(C(=O)O)C=C1)NN | InChI=1S/C7H7BrN2O2.ClH/c8-4-1-2-5(7(11)12)6(3-4)10-9;/h1-3,10H,9H2,(H,11,12);1H
